US07067702B2
Synthesis of 4,4′-dibromobenzalacetophenone:
Sodium hydroxide (1.8 g, 45 mmol) and 4-bromoacetophenone (7.12 g, 36 mmol) were dissolved in water (18 mL) and ethanol (50 mL). 4-Bromo benzaldehyde (6.62 g, 36 mmol) dissolved in ethanol (20 mL) was added dropwise to the acetophenone solution. A slurry quickly formed, which was allowed to stir overnight. The slurry was filtered, was with water until the filtrate was neutral to pH paper, and dried at 100° C. for 12 hours. A light tan solid was obtained (12.8 g, 97% yield).

reactant | Sodium hydroxide | 45 mmol, 1.8 g | [OH-].[Na+]
reactant | 4-bromoacetophenone | 36 mmol, 7.12 g | CC(=O)C1=CC=C(C=C1)Br | C8H7BrO
reactant | 4-Bromo benzaldehyde | 36 mmol, 6.62 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | acetophenone | C(C)(=O)C1=CC=CC=C1 | C8H8O
solvent | water | 18 mL | O | H2O
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 4,4′-dibromobenzalacetophenone | 97% yield | BrC1=CC=C(C=CC(=O)C2=CC=C(C=C2)Br)C=C1 | C15H10Br2O
